US05055481
5-(3-Aminophenyl)tetrazole (1.7 g) was added to 12 ml of n-butyloxalate and reacted at a bath temperature of 165° to 175° C. for 1.5 hr while stirring. After cooling, the precipitated crystals were filtered off and recrystallized from acetone-n-hexane, to give 2.3 g (yield: 75%) of 5-(3-n-butyloxalylaminophenyl)tetrazole.

reactant | 5-(3-Aminophenyl)tetrazole | 1.7 g | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
reactant | n-butyloxalate | 12 ml | C(CCC)OC(C(=O)[O-])=O
product | 5-(3-n-butyloxalylaminophenyl)tetrazole | 2.3 g, yield: 75% | CCCCOC(=O)C(=O)NC1=CC=CC(=C1)C2=NNN=N2 | C13H15N5O3
